US04916148
A solution of 2-chloro-1,2-dihydro-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile in ethanol (5 ml) was treated with triethylamine (0.06 ml), and the mixture was kept at room temperature for 3 h and then evaporated to dryness under reduced pressure. The residue was purified by flash chromatography, using methanol:dichloromethane, 1:200 v/v as eluant, to give 2-ethoxy-1,2-dihydro-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]-furan-7-carbonitrile, m.p. 128°-129°.

reactant | 2-chloro-1,2-dihydro-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile | ClC1C(C2=C(O1)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C#N)(C)C | C18H15ClN4O
reactant | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 2-ethoxy-1,2-dihydro-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]-furan-7-carbonitrile | C(C)OC1C(C2=C(O1)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C#N)(C)C | C20H20N4O2
